US08981085B2
A mixture of trans-benzyl 3-(diethoxyphosphorylamino)-4-methoxypiperidine-1-carboxylate (2.00 g, 4.99 mmol) and 10% Pd/C (0.27 g, 0.25 mmol) in methanol (30 mL) was charged with 1 atmosphere hydrogen and stirred at room temperature for 1 hour. The catalyst was removed by filtration and washed with methanol (20 mL). The filtrate was concentrated in vacuo to give diethyl trans-4-methoxypiperidin-3-ylphosphoramidate (1.30 g, 98%) as an oil.

reactant | trans-benzyl 3-(diethoxyphosphorylamino)-4-methoxypiperidine-1-carboxylate | 4.99 mmol, 2.00 g | C(C)OP(=O)(OCC)N[C@@H]1CN(CC[C@H]1OC)C(=O)OCC1=CC=CC=C1 | C18H29N2O6P
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 0.25 mmol, 0.27 g | [Pd] | Pd
product | diethyl trans-4-methoxypiperidin-3-ylphosphoramidate | 1.30 g, 98% | CO[C@H]1[C@@H](CNCC1)NP(OCC)(OCC)=O | C10H23N2O4P
